US05965589
According to the same manner as that described in Reference Example 37, 5-[3-(4-benzyloxy-3,5-dimethoxyphenyl)-propyl]-2,4-thiazolidinedione was treated with titanium tetrachloride to give 5-[3-(4-hydroxy-3,5-dimethoxyphenyl)-propyl]-2,4-thiazolidinedione as an oil (yield: 82%).

reactant | 5-[3-(4-benzyloxy-3,5-dimethoxyphenyl)-propyl]-2,4-thiazolidinedione | C(C1=CC=CC=C1)OC1=C(C=C(C=C1OC)CCCC1C(NC(S1)=O)=O)OC | C21H23NO5S
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 5-[3-(4-hydroxy-3,5-dimethoxyphenyl)-propyl]-2,4-thiazolidinedione | yield: 82% | OC1=C(C=C(C=C1OC)CCCC1C(NC(S1)=O)=O)OC | C14H17NO5S
